US05891899
A solution of ethyl 2-methyl-4-bromobenzoylacetate (18.5 g, 65.0 mmol) was heated at 60° C. with 9-hydroxyxanthene (14.2 g, 71.5 mmol) in ethanol-acetic acid (1:1, 200 ml) for 40 h. The product was isolated as in Example 1 (iii), except the aqueous phase was extracted with diethyl ether. The crude product was purified on flash silica eluting with hexane-dichloromethane (3:2 then 1:1) to give ethyl 2-(4-bromo-2-methylbenzoyl)-2-(9H-xanthen-9-yl)acetate as an oil.

reactant | ethyl 2-methyl-4-bromobenzoylacetate | 65.0 mmol, 18.5 g | CC1=C(C(=O)CC(=O)OCC)C=CC(=C1)Br | C12H13BrO3
reactant | 9-hydroxyxanthene | 71.5 mmol, 14.2 g | OC1C2=CC=CC=C2OC=2C=CC=CC12 | C13H10O2
solvent | ethanol acetic acid | 200 ml | C(C)O.C(C)(=O)O
product | ethyl 2-(4-bromo-2-methylbenzoyl)-2-(9H-xanthen-9-yl)acetate | BrC1=CC(=C(C(=O)C(C(=O)OCC)C2C3=CC=CC=C3OC=3C=CC=CC23)C=C1)C | C25H21BrO4
